Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
"My ___ found me at 65%" 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ yo male with severe COPD on home oxygen, s/p 
recent PEA arrest, referred to the ED by his ___. Per his 
report, his visiting nurse found him satting 65% on his 
supplemental O2. He states that his sat rose to 81% with "some 
exercises." He states that he felt extremely short of breath at 
the time but is unable to identify any precipitating event. He 
states that he felt sluggish that morning and had returned to 
bed, but was up out of bed by the time his ___ arrived. He 
denies any fever or chills or rigors. He has had a productive 
cough for several months, which he distinguishes from his 
baseline "smokers cough." He reports that it is occasionally 
productive of deep green sputum. He states that his coughing has 
been limited by chest wall pain since he underwent CPR 2 weeks 
ago. He was recently seen by the NP at ___ on ___ and was 
prescribed a steroid taper for a COPD flare at that visit; he 
states that he did not take this taper as prescribed. He 
continues to smoke ___ cigarettes per day.  
In the ED, he received combivent nebs x3, azithromycin 500 mg 
PO, ceftriaxone 1 g IV, ASA 325 mg, and prednisone 60 mg PO.  

 
Past Medical History:
1. COPD- on home O2 (3L), FEV1 22% predicted, FEV1/FVC  
ratio 43% predicted, last intubated ___ years ago. followed by 
Pulm  
2. Tobacco Abuse  
3. DM II  
4. Diverticulosis  
5. h/o SBO  
6. C6-C7 HERNITATION  
7. B12 Deficiency- on monthly injections  
8. Obesity  

 
Social History:
___
Family History:
Mother and Father died of lung cancer in their ___, sister just 
recently died at age ___ from lung CA, daughter with cystic 
fibrosis
 
Pertinent Results:
___ 11:00AM   WBC-9.3 RBC-4.59* HGB-13.4* HCT-42.3 MCV-92 
MCH-29.2 MCHC-31.7 RDW-14.1
___ 11:00AM   NEUTS-75.4* LYMPHS-15.1* MONOS-6.7 EOS-2.5 
BASOS-0.3
___ 11:00AM   CK-MB-NotDone
___ 11:00AM   cTropnT-0.02*
___ 11:00AM   CK(CPK)-53
___ 11:00AM   GLUCOSE-128* UREA N-22* CREAT-0.8 SODIUM-148* 
POTASSIUM-3.9 CHLORIDE-105 TOTAL CO2-37* ANION GAP-10
___ 11:00AM   PLT COUNT-199
___ 11:00AM   ___ PTT-22.1 ___/P: Mr. ___ is a ___ yo male with severe COPD who presents 
with hypoxia
.
1) COPD flare: No clear infectious trigger identified with a 
clear CXR, normal WBC, negative ROS. Treated with steroids, IV 
then to prednisone with slow taper. Plan to see NP at ___ in 
week and determine whether can taper to off.

2) Diastolic heart failure: Continue lasix 40 mg daily

3) Hypertension: Continue Norvasc, Lisinopril

4) Chest wall pain, s/p chest compressions: Ibuprofen PRN

5) DM2: Glyburide, Glucophage at home.  Required insulin while 
on higher doses of steroids, but fsbg better controlled as 
glucophsge restarted and prednisone tapered down.  Pt told to 
check fsbg at home and report to his primary nurse practitioner.

6)Pneumonia: CXR c/w pneumonia, sputum with MRSA.  Double 
coverage with Bactrim and Levofloxacin. 

 
Medications on Admission:
Prednisone 10 mg QOD  
Albuterol MDI 2 puffs 4x/day  
Aledronate 70 mg PO ___  
Norvasc 5 mg daily  
ASA 325 mg daily  
Calcium + Vit D BID  
Colace 100 mg BID  
Senna 2 tabs qHS  
Combivent QID  
Flonase 50 mcg 2 sprays daily  
Metformin 100 mg BID  
Glyburide 2.5 mg QOD  
Lasix 40 mg daily  
Prilosec 20 mg BID  
Ranitidine 300 mg qHS  
Ferrous sulfate 325 mg daily  
Advair 250/50 BID  
Ibuprofen 600 mg TID:PRN  
Lisinopril 20 mg daily  
___ daily  
Vitamin B12 1000 mcg qmonth  

 
Discharge Medications:
1. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
4. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
6. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
7. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QMON (every 
___.  
8. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID W/ MEALS ().  
9. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
10. Hexavitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
11. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
13. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain.  
14. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
15. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 3 days.
Disp:*6 Tablet(s)* Refills:*0*
16. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
17. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
18. Glyburide 2.5 mg Tablet Sig: One (1) Tablet PO twice a day.  

19. Prednisone 10 mg Tablet Sig: ___ Tablets PO once a day: Take 
30 mg ___, then Prednisone 20 mg per day until you see 
your nurse ___.
Disp:*30 Tablet(s)* Refills:*0*
20. Levofloxacin 750 mg Tablet Sig: One (1) Tablet PO once a day 
for 3 days.
Disp:*3 Tablet(s)* Refills:*0*
21. Albuterol 90 mcg/Actuation Aerosol Sig: One (1) inhalation 
Inhalation every ___ hours as needed for shortness of breath or 
wheezing.
Disp:*1 inhaler* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
COPD flare
pneumonia

 
Discharge Condition:
stable

 
Discharge Instructions:
Please continue your steroids (prednisone) until you see your 
nurse at ___.  She will let you know how much 
longer you need to take the prednisone.  Please continue the 
antibiotics until completed.  Call your PCP with increased 
shortness of breath.
 
Followup Instructions:
___